US05631279
By working according to the procedure of Example 1, starting from 0.62 g of (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)perhydro-4,5-isoindolediol and 0.40 g of 2-(1-pyrrolidinyl)phenylacetic acid, 0.70 g of (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(2-(1-pyrrolidinyl)phenyl)acetyl]perhydro-4,5-isoindolediol is obtained, melting at 236° C.

reactant | (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)perhydro-4,5-isoindolediol | 0.62 g | C1(=CC=CC=C1)C1(CC(C(C2CNCC12)(O)C1=C(C=CC=C1)OC)O)C1=CC=CC=C1 | C27H29NO3
reactant | 2-(1-pyrrolidinyl)phenylacetic acid | 0.40 g | N1(CCCC1)C1=C(C=CC=C1)CC(=O)O | C12H15NO2
product | (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(2-(1-pyrrolidinyl)phenyl)acetyl]perhydro-4,5-isoindolediol | 0.70 g | C1(=CC=CC=C1)C1(CC(C(C2CN(CC12)C(CC1=C(C=CC=C1)N1CCCC1)=O)(O)C1=C(C=CC=C1)OC)O)C1=CC=CC=C1 | C39H42N2O4
